US05324747
A mixture of 2.5 g (5.77 mmol) of 3,4-bis[(1-oxodecyl)oxy]benzenamine, 9.1 ml (57.7 mmol) of benzyl bromoacetate, 3.1 g (14.4 mmol) of 1,8-bis(dimethylamino)naphthalene and 0.34 g (2.3 mmol) of sodium iodide in 50 ml of acetonitrile and 10 ml of DMF was stirred at reflux for 48 hours. The solvents were removed at reduced pressure and the residue was treated with methylene chloride and water. The organic phase was separated, dried and concentrated to an oil which was purified by HPLC using 20% ethyl acetate-hexane to give 2.2 g (52% yield) of N-[3,4-bis[(1-oxodecyl)oxy]phenyl]-N-[2-oxo-2-phenylmethoxy)ethyl]glycine phenylmethyl ester as an oil. The structure was confirmed by nmr and mass spectra.

reactant | 3,4-bis[(1-oxodecyl)oxy]benzenamine | 5.77 mmol, 2.5 g | O=C(CCCCCCCCC)OC=1C=C(C=CC1OC(CCCCCCCCC)=O)N | C26H43NO4
reactant | benzyl bromoacetate | 57.7 mmol, 9.1 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | 14.4 mmol, 3.1 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 2.3 mmol, 0.34 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | glycine phenylmethyl ester | C1(=CC=CC=C1)COC(CN)=O | C9H11NO2
